US04742062
Preparation of 1-(4-chlorobenzyl)-4-(2,4-dichlorocinnamyl)piperazine dihydrochloride (preparation by Process B)
N-(4-Chlorobenzyl)piperazine (4.2 g, 19.93 mmole) (which is prepared by the process as disclosed in Yoshiaki Ikeda et al., Yakugaku Zasshi, Vol. 89, 669-676, 1969) and 2,4-dichlorocinnamaldehyde (4.1 g, 20.39 mmole) (which is prepared by the process as disclosed in U.S. Pat. No. 3,094,561) are mixed and heated on an oil bath at 130° C. to melt them, and thereto is added dropwise formic acid (2.0 ml, 52.6 mmole), and the mixture is stirred under heating for 30 minutes. The reaction mixture is allowed to cool and is dissolved in ethanol (30 ml), and to the solution is added an ethanol solution (90 ml) of conc. hydrochloric acid (4.5 ml). The precipitated crystals are separated by filtration. The crystals are recrystallized from water-ethanol to give the title compound (3.8 g). The product shows the same physical properties as those of the compound prepared in Example 1-(1).

reactant | N-(4-Chlorobenzyl)piperazine | 19.93 mmole, 4.2 g | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
reactant | 2,4-dichlorocinnamaldehyde | 20.39 mmole, 4.1 g | ClC1=C(C=CC=O)C=CC(=C1)Cl | C9H6Cl2O
reactant | formic acid | 52.6 mmole, 2.0 ml | C(=O)O | CH2O2
reactant | hydrochloric acid | 4.5 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 1-(4-chlorobenzyl)-4-(2,4-dichlorocinnamyl)piperazine dihydrochloride | 3.8 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CC=CC2=C(C=C(C=C2)Cl)Cl)C=C1 | InChI=1S/C20H21Cl3N2.2ClH/c21-18-6-3-16(4-7-18)15-25-12-10-24(11-13-25)9-1-2-17-5-8-19(22)14-20(17)23;;/h1-8,14H,9-13,15H2;2*1H
